US07279473B2
N-Cyclopentyl-3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-amine
To a solution of 3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-yl trifluoromethanesulfonate (107 mg, 0.268 mmol) in DMF (2 mL) was added DIEA (0.093 mL, 0.536 mmol) and cyclopentylamine (0.026 mL, 0.268 mmol). The reaction mixture was heated at an oil bath temperature of 50° C. for about 1 hour at which point N-phenyltrifluoromethylsulfonimide (95 mg, 0.268 mmol) was added followed by an additional portion (equivalent) of cyclopentylamine and DIEA This was repeated two more times. The mixture was cooled to RT and water (20 mL) was added. The aqueous layer was washed with EtOAc (3×50 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo and purified by silica-gel column 0.15 chromatography (gradient, 0-10% MeOH in CH2Cl2). The residue was suspended in EtOAc and triturated with hexanes to give the title compound as a yellow solid (26 mg, 29%). 1H-NMR (300 MHz, CDCl3) 8.71 (d, 1H, J=9.5 Hz), 8.17 (s, 2H), 6.89 (d, 1H, J=5.7 Hz), 6.55 (d, 1H, J=9.3 Hz), 5.92 (bs, 1H), 4.43 (m, 1H), 4.30 (m, 1H), 2.84 (m, 1H), 2.16 (m, 2H), 1.71 (m, 4H), 1.50 (m, 2H), 0.87 (m, 2H), 0.66 (m, 2H); MS (APCI) (M+H)+ 336.

reactant | 3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-yl trifluoromethanesulfonate | 0.268 mmol, 107 mg | FC(S(=O)(=O)OC=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)NC2CC2)(F)F | C14H11F3N6O3S
reactant | DIEA | 0.536 mmol, 0.093 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopentylamine | 0.268 mmol, 0.026 mL | C1(CCCC1)N | C5H11N
reactant | water | 20 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-Cyclopentyl-3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-amine | 26 mg, 29% | C1(CCCC1)NC=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)NC2CC2 | C18H21N7
